US08865913B2
To a mixture of Methanol (66 L) and Water (10 L) at 20° C. was added purified (R)-5-(2-(benzylamino)ethyl)-1-(6,8-difluorochroman-3-yl)-1H-imidazole-2(3H)-thione hydrochloride (4.37 kg, 9.98 mol) to afford a suspension. The reaction mixture was then heated to 67° C. to affect complete dissolution, whereupon 1N Sodium hydroxide (10.48 L, 10.48 mol, 1.05 eq) was added in a single portion. The reaction mixture was adjusted back to 67° C. and held at 67° C. for 30 min. The reaction mixture was then cooled to 20° C. and aged at 20° C. for at least 30 min. The reaction was then filtered and the filter cake washed with aqueous Methanol (1:1 v/v, 20 L), sucked down for 15 min. and then dried at 45° C. under vacuum, to afford (R)-5-(2-(benzylamino)ethyl)-1-(6,8-difluorochroman-3-yl)-1H-imidazole-2(3H)-thione (3.855 kg, 96%) as a pale tan crystalline solid.

reactant | Methanol | 66 L | CO | CH4O
reactant | (R)-5-(2-(benzylamino)ethyl)-1-(6,8-difluorochroman-3-yl)-1H-imidazole-2(3H)-thione hydrochloride | 9.98 mol, 4.37 kg | Cl.C(C1=CC=CC=C1)NCCC1=CNC(N1[C@H]1COC2=C(C=C(C=C2C1)F)F)=S
reactant | Sodium hydroxide | 10.48 mol, 1N, 10.48 L, 1.05 eq | [OH-].[Na+]
solvent | Water | 10 L | O | H2O
product | (R)-5-(2-(benzylamino)ethyl)-1-(6,8-difluorochroman-3-yl)-1H-imidazole-2(3H)-thione | 3.855 kg, 96% | C(C1=CC=CC=C1)NCCC1=CNC(N1[C@H]1COC2=C(C=C(C=C2C1)F)F)=S | C21H21F2N3OS
